US08466282B2
1-(2-fluorophenyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-5-(phenoxymethyl)-1H-1,2,3-triazole-4-carboxamide 1/2 fumarate
tert-Butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(phenoxymethyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (119 mg) was dissolved in 1M hydrogen chloride-ethyl acetate (4 ml), and the mixture was stirred at room temperature for 13 hr and concentrated under reduced pressure. The residue was diluted with ethyl acetate, washed successively with 3.5M aqueous potassium carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane-methanol (10:90:0-100:0:0-85:0:15) was concentrated under reduced pressure. The residue was dissolved in methanol (2 ml), fumaric acid (7.9 mg) was added and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure to give the object product (87 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(phenoxymethyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 119 mg | FC1=C(C=CC=C1)N1N=NC(=C1COC1=CC=CC=C1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C35H45FN6O6
solvent | hydrogen chloride-ethyl acetate | 1M, 4 ml | C(C)(=O)OCC.Cl
product | 1-(2-fluorophenyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-5-(phenoxymethyl)-1H-1,2,3-triazole-4-carboxamide | 87 mg | FC1=C(C=CC=C1)N1N=NC(=C1COC1=CC=CC=C1)C(=O)N([C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)CC(C)C | C30H37FN6O4
